US06087357
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(carboxymethyl)-2-(1H-indol-3-ylmethyl)piperazine (0.4 g) and thiomorpholine (0.08 g) in dry N,N-dimethylformamide (4 ml) were added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.16 g) and 1-hydroxybenzotriazole (0.12 g) at room temperature. After 3 hours, the reaction mixture was poured into aqueous sodium bicarbonate solution (40 ml) and the resulting precipitate was collected by filtration. The crude product obtained was purified by column chromatography on silica gel using toluene-ethyl acetate (1:2) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(thiomorpholinocarbonylmethyl)piperazine (0.42 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(carboxymethyl)-2-(1H-indol-3-ylmethyl)piperazine | 0.4 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C24H21F6N3O3
reactant | thiomorpholine | 0.08 g | N1CCSCC1 | C4H9NS
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(thiomorpholinocarbonylmethyl)piperazine | 0.42 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)N2CCSCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C28H28F6N4O2S
